US07776869B2
Step 4: 5-ethynyl-N-methyl-4-(thiophen-2-yl)pyrimidin-2-amine
A 25 mL round bottom flask was charged with N-methyl-4-(thiophen-2-yl)-5-(2-(trimethylsilyl)ethynyl)pyrimidin-2-amine (0.518 g, 1.80 mmol), methanol (20 mL), and potassium carbonate (0.747 g, 5.41 mmol), and the reaction mixture stirred at room temperature for 24 hours. The reaction mixture was concentrated and the residue was purified via column chromatography on silica gel (gradient elution with 0-100% ethyl acetate-hexane) to 5-ethynyl-N-methyl-4-(thiophen-2-yl)pyrimidin-2-amine. MS m/z=216 [M+H]+. Calc'd for C11H9N3S: 215.

reactant | N-methyl-4-(thiophen-2-yl)-5-(2-(trimethylsilyl)ethynyl)pyrimidin-2-amine | 1.80 mmol, 0.518 g | CNC1=NC=C(C(=N1)C=1SC=CC1)C#C[Si](C)(C)C | C14H17N3SSi
reactant | potassium carbonate | 5.41 mmol, 0.747 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 20 mL | CO | CH4O
product | 5-ethynyl-N-methyl-4-(thiophen-2-yl)pyrimidin-2-amine | C(#C)C=1C(=NC(=NC1)NC)C=1SC=CC1 | C11H9N3S
